US05629322
cis-Decahydro-2-quinolinone
A suspension of 1 g of 3,4,5,6,7,8-hexahydro-2(1H)-quinolinone in 1:1 mixture of dioxane and ethanol was hydrogenated in presence of 250 mg of 10% palladium on carbon at 60 psi and room temperature for 4 hours. The catalyst was filtered on a bed of filter cell and washed with dioxane-ethanol mixture. The filtrate was concentrated to give a residue which was purified on silica gel using ethyl acetate as solvent to give 510 mg of the desired product containing about 10% trans-isomer. Recrystallization from hexane did not improve the isomer ratio.

reactant | 3,4,5,6,7,8-hexahydro-2(1H)-quinolinone | 1 g | N1C(CCC=2CCCCC12)=O | C9H13NO
reactant | dioxane | O1CCOCC1 | C4H8O2
catalyst | palladium on carbon | 250 mg | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | cis-Decahydro-2-quinolinone | 510 mg | N1C(CC[C@@H]2CCCC[C@H]12)=O | C9H15NO
